US03959322
Reflux 6-(3,4-dimethoxyphenyl)hex-1-en-3-one, containing a small amount of 6-(3,4-dimethoxyphenyl)-1-diethylaminohexan-3-one (6 g, produced by slow distillation of the latter substance) with 2-ethyl-cyclopentane-1,3-dione (3.5 g) in 0.12% anhydrous methanolic potassium hydroxide (10 cc) for 10 hours. Remove most of the methanol under reduced pressure, add benzene (25 cc) and ether (25 cc) and wash the solution with water, dilute aqueous potassium hydroxide, dilute hydrochloric acid and water. Dry and evaporate the solvent to give the triketone adduct 2-[6-(3,4-dimethoxyphenyl)-3-oxohexyl]-2-ethylcyclopentane-1,3-dione; infrared absorption (gum) 5.80, 6.25 μ (split peak).

reactant | 6-(3,4-dimethoxyphenyl)hex-1-en-3-one | COC=1C=C(C=CC1OC)CCCC(C=C)=O | C14H18O3
reactant | 6-(3,4-dimethoxyphenyl)-1-diethylaminohexan-3-one | COC=1C=C(C=CC1OC)CCCC(CCN(CC)CC)=O | C18H29NO3
solvent | potassium hydroxide | 10 cc | [OH-].[K+]
product | 2-ethyl-cyclopentane-1,3-dione | 3.5 g | C(C)C1C(CCC1=O)=O | C7H10O2
